US09382559B2
Oxidation of 2,2′-azino-bis(3-ethylbenzthiazoline-6-sulfonic acid)
The reaction mixture (0.2 ml) contained 1.0 mM ABTS, buffer (50 mM phosphate buffer pH 7 or 50 mM Britton-Robinson buffer pH 4), 20 μl peroxygenase fermentation supernatant (see Example 1) and 0.5 mM hydrogen peroxide.

reactant | ABTS | 1.0 mM | CCN1/C(=N/N=C/2\SC3=C(N2CC)C=CC(=C3)S(=O)(=O)[O-])/SC4=C1C=CC(=C4)S(=O)(=O)[O-].[NH4+].[NH4+]
reactant | phosphate | 50 mM, pH 7 | P(=O)([O-])([O-])[O-]
reactant | hydrogen peroxide | 0.5 mM | OO | H2O2
product | 2,2′-azino-bis(3-ethylbenzthiazoline-6-sulfonic acid) | N(N=C1SC2=C(N1CC)C=CC(=C2)S(=O)(=O)O)=C2SC1=C(N2CC)C=CC(=C1)S(=O)(=O)O | C18H18N4O6S4
